US06307047B1
2-(3-Chlorophenyl)-4-(2-methylpropoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
To a stirred suspension of 2-(3-chlorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone, prepared in Example 333, (0.175 g, 0.33 mmol) in THF (3.3 mL) was added isobutanol (0.03 mL, 0.33 mmol), and NaH (0.0132 g, 0.33 mmol). The resulting solution was stirred under nitrogen for 1 hour. The reaction was poured into H2O and extracted with ethyl acetate. The combined organics were dried over MgSO4 and concentrated in vacuo. The crude solid was purified using flash chromatography (SiO2, 2:1 hexanes:ethyl acetate) to provide the desired product (yield: 0.1088 g 76%). mp 166-169° C. 1H NMR (300 MHz, DMSO d6) δ 0.78 (d, J=6 Hz, 6H), 1.84 (m, 1H), 3.29 (s, 3H), 4.20 (d, J=6 Hz, 2H), 7.51-7.63 (m, 3H), 7.76 (m, 1H), 7.92 (m, 2H), 8.07 (m, 2H), 8.21 (s, 1H). MS (DCI/NH3) m/z 433 (M+H)+, 450 (M+NH4)+. Anal. calc. for C21H21ClN2O4S: C, 57.07; H, 5.01; N, 6.33. Found: C, 57.06; H, 4.78; N, 6.13.

reactant | 2-(3-chlorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | ClC=1C=C(C=CC1)N1N=CC(=C(C1=O)OS(=O)(=O)C1=CC=C(C)C=C1)C1=CC=C(C=C1)S(=O)(=O)C | C24H19ClN2O6S2
reactant | isobutanol | 0.33 mmol, 0.03 mL | C(C(C)C)O | C4H10O
reactant | NaH | 0.33 mmol, 0.0132 g | [H-].[Na+]
reactant | H2O | O | H2O
solvent | THF | 3.3 mL | C1CCOC1 | C4H8O
product | 2-(3-Chlorophenyl)-4-(2-methylpropoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | yield: 0.1088 g, 76% | ClC=1C=C(C=CC1)N1N=CC(=C(C1=O)OCC(C)C)C1=CC=C(C=C1)S(=O)(=O)C | C21H21ClN2O4S
